Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
gluten
 
Attending: ___.
 
Chief Complaint:
unstable thoracic spine fractures with left lower extremity 
motor deficits
 
Major Surgical or Invasive Procedure:
1. T3 to T11.
2. Multiple thoracic laminotomies.
3. Laminectomy T6 and 7.
4. Instrumentation T3 to 11.
5. Autograft.

 
History of Present Illness:
___ s/p recent MVC w/ multiple T-spine fxs & LLE motor deficits. 
CT in ___ revealed fxs of T3 SP, T4 R TP, T5 SP, T6 SP, 
and T7 vertebral body. She recently had repeat imaging showing 
interval displacement of her T-spine fxs. She was seen by. Dr 
___ who is planning for posterior T3-12 fusion for stability. 
She endorses persistent LLE motor deficits. Denies neck pain or 
UE sxs. Denies bowel or bladder sxs.
 
Past Medical History:
-hx of thyroid nodules  
-hx of mild persistsant asthma, previously on proair and 
fluticasone, but no script since ___  
-hx of migraines  

 
Social History:
___
Family History:
NC
 
Physical Exam:
On examination the patient is well developed, well nourished, 
A&O x3 in NAD. AVSS.
Range of motion of the thoracolumbar spine is somewhat limited 
on flexion, extension and lateral bending due to pain.
Ambulating with the assistance of a walker and ___, with TLSO 
brace and soft cervical collar for support.
Gross motor examination reveals ___ strength throughout the 
bilateral upper extremities and right lower extremity. 
Persistent weakness in left lower extremity unchanged as 
compared to pre operative examination.
Sensation is grossly intact throughout all affected dermatomes.
The thoracic incision is clean, dry and intact without erythema, 
edema or drainage.
Foley catheter in place to gravity.

 
Pertinent Results:
___ 09:15AM BLOOD WBC-8.9 RBC-3.40* Hgb-9.2* Hct-29.7* 
MCV-87 MCH-27.1 MCHC-31.0* RDW-13.3 RDWSD-42.5 Plt ___
___ 09:15AM BLOOD Glucose-125* UreaN-6 Creat-0.5 Na-140 
K-3.7 Cl-103 HCO3-29 AnGap-12
___ 09:15AM BLOOD Calcium-8.9 Phos-4.3 Mg-1.___riefly, ___ was admitted to the ___ Spine Surgery 
Service and taken to the Operating Room on ___ for the above 
procedure.  Refer to the dictated operative note for further 
details.  The surgery was performed without complication, the 
patient tolerated the procedure well, and was transferred to the 
PACU in a stable condition.  TEDs/pneumoboots/SC heparin were 
used for postoperative DVT prophylaxis.  Intravenous antibiotics 
were continued for 24hrs postop per standard protocol. 
Initially, postop pain was controlled with a PCA.  Diet was 
advanced as tolerated.  The patient was transitioned to oral 
pain medication when tolerating PO diet.  Foley catheter 
remained in place to gravity. Post-operative labs were grossly 
stable. A hemovac drain that was placed at the time of surgery 
was removed on POD#2.  Physical therapy was consulted for 
mobilization OOB. A TLSO brace was fitted for the patient. 
Hospital course was otherwise unremarkable.  On the day of 
discharge the patient was afebrile with stable vital signs, 
comfortable on oral pain control and tolerating a regular diet.
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H 
2. Diazepam 5 mg PO Q6H:PRN pain/anxiety 
RX *diazepam [Valium] 5 mg 1 tab by mouth every six (6) hours 
Disp #*90 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. Gabapentin 300 mg PO TID 
RX *gabapentin [Neurontin] 300 mg 1 capsule(s) by mouth three 
times a day Disp #*90 Capsule Refills:*0
5. Heparin 5000 UNIT SC BID 
6. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*90 Tablet Refills:*0
7. Morphine SR (MS ___ 30 mg PO Q8H 
RX *morphine [MS ___ 30 mg 1 tablet(s) by mouth every eight 
(8) hours Disp #*90 Tablet Refills:*0
8. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
 T6 and 7 fractures, kyphosis.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
ACTIVITY: DO NOT lift anything greater than 10 lbs for 2 weeks. 

___ times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

You will be more comfortable if you do not sit or stand more 
than ~45 minutes without changing positions.

BRACE: You have been given a TLSO brace and soft cervical 
collar. Both braces should be worn when you are walking. You may 
take it off when sitting in a chair or while lying in bed.

WOUND: Remove the external dressing in 2 days. If your incision 
is draining, cover it with a new dry sterile dressing. If it is 
dry then you may leave the incision open to air. Once the 
incision is completely dry, (usually ___ days after the 
operation) you may shower. Do not soak the incision in a bath or 
pool until fully healed. If the incision starts draining at any 
time after surgery, cover it with a sterile dressing. Please 
call the office. 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.

MEDICATIONS: You should resume taking your normal home 
medications. Refrain from NSAIDs immediately post operatively.

You have also been given Additional Medications to control your 
post-operative pain. Please allow our office 72 hours for refill 
of narcotic prescriptions. Please plan ahead. You can either 
have them mailed to your home or pick them up at ___ Spine 
Specialists, ___. We are not able 
to call or fax narcotic prescriptions to your pharmacy. In 
addition, per practice policy, we only prescribe pain 
medications for 90 days from the date of surgery.

 
Followup Instructions:
___